US09163020B2
See FIG. 17(a). In a 50 mL round-bottomed flask N-(2-fluoroethyl)-1H-pyrrolo[3,2-b]pyridine-3-carboxamide (0.1 g, 0.48 mmol) was DMF (10 mL) to give a colourless suspension. the reaction mixture was cooled to 0° C. and potassium carbonate (0.200 g, 1.45 mmol) and 2-(bromomethyl)-3,4-difluoro-1-methoxybenzene (0.114 g, 0.48 mmol) was added then the RM was stirred at 80° C. for 4 h. The reaction was monitored by LCMS. DMF was concentrated under vacuao, added water and extracted with DCM. The combined organic layer was washed with brine, dried over sodium sulphate, filtered and evaporated to give crude product. The crude material was purified on reverse phase preparative HPLC system to get 1-(2,3-difluoro-6-methoxybenzyl)-N-(2-fluoroethyl)-1H-pyrrolo[3,2-b]pyridine-3-carboxamide (0.060 g, 34.2%). ES+MS m/z: 364 (M+1) 1H NMR (DMSO-d6, 300 MHZ): δ ppm 8.90 (br. s., 1 H ), 8.50 (d, J=4.3 Hz, 1 H ), 8.02-8.15 (m, 2 H ), 7.30-7.52 (m, 2 H ), 6.92 (d, J=8.7 Hz, 1 H ), 5.53 (s, 2 H ), 4.63 (t, J=4.4 Hz, 1 H ), 4.47 (t, J=4.8 Hz, 1 H ), 3.86 (s, 3 H ), 3.74 (d, J=5.3 Hz, 1 H ), 3.65 (d, J=5.3 Hz, 1 H ).

reactant | N-(2-fluoroethyl)-1H-pyrrolo[3,2-b]pyridine-3-carboxamide | 0.48 mmol, 0.1 g | FCCNC(=O)C1=CNC=2C1=NC=CC2 | C10H10FN3O
reactant | potassium carbonate | 1.45 mmol, 0.200 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-(bromomethyl)-3,4-difluoro-1-methoxybenzene | 0.48 mmol, 0.114 g | BrCC1=C(C=CC(=C1F)F)OC | C8H7BrF2O
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 1-(2,3-difluoro-6-methoxybenzyl)-N-(2-fluoroethyl)-1H-pyrrolo[3,2-b]pyridine-3-carboxamide | 0.060 g, 34.2% | FC1=C(CN2C=C(C3=NC=CC=C32)C(=O)NCCF)C(=CC=C1F)OC | C18H16F3N3O2
